US04490366
1.0 g of 2'-deoxy-3',5'-di-O-acetyl-5-fluorouridine and 0.76 ml of triethylamine were dissolved in 10 ml of dry dioxane, and the resulting solution was cooled with ice. To the solution was added 0.65 g of benzoyl chloride, and the resulting mixture was allowed to stand at room temperature for 60 minutes and then at 45° C. for 30 minutes. The crystals formed were filtered off, and the filtrate was concentrated under reduced pressure. The oily residue was purified by column chromatography on silica gel [column, diameter 3.5 cm; length, 21 cm; solvent, chloroform-methanol (99/1)]. The purified oily substance was dissolved in 10 ml of dimethylsulfoxide and added dropwise to 300 ml of water with vigorous agitation to be deposited as a solid. This solid was collected by filtration, washed sufficiently with water and dried at room temperature under reduced pressure. There was obtained 1.04 g (yield: 79.1%) of 3-benzoyl-2'-deoxy-3',5'-di-O-acetyl-5-fluorouridine as powder. The structure was supported by the absorption spectra and elemental analysis.

reactant | 2'-deoxy-3',5'-di-O-acetyl-5-fluorouridine | 1.0 g | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1COC(C)=O)N1C(=O)NC(=O)C(=C1)F | C13H15FN2O7
reactant | triethylamine | 0.76 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.65 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-benzoyl-2'-deoxy-3',5'-di-O-acetyl-5-fluorouridine | 1.04 g, yield: 79.1% | C(C1=CC=CC=C1)(=O)N1C(N([C@H]2C[C@H](OC(C)=O)[C@@H](COC(C)=O)O2)C=C(C1=O)F)=O | C20H19FN2O8
